US04111936
Methyl 3-[2-(3-t-butylamino-2-hydroxypropoxy)-5-chlorobenzoyl]propionate was cyclised with hydrazine hydrate in a similar manner to the procedure described in Example 2(ii) to give 6-[2(3-t-butylamino-2-hydroxypropoxy)-5-chlorophenyl]-4,5-dihydro-3(2H)-pyridazinone.

reactant | Methyl 3-[2-(3-t-butylamino-2-hydroxypropoxy)-5-chlorobenzoyl]propionate | C(C)(C)(C)NCC(COC1=C(C(=O)CCC(=O)OC)C=C(C=C1)Cl)O | C18H26ClNO5
reactant | hydrazine hydrate | O.NN
product | 6-[2(3-t-butylamino-2-hydroxypropoxy)-5-chlorophenyl]-4,5-dihydro-3(2H)-pyridazinone | C(C)(C)(C)NCC(COC1=C(C=C(C=C1)Cl)C=1CCC(NN1)=O)O | C17H24ClN3O3
